US07727979B2
2-bromo-4,4-dimethylcyclohexanone (Starting Product for Example C-11)
The bromination of 4,4-dimethylcyclohexanone takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 4,4-dimethylcyclohexanone | CC1(CCC(CC1)=O)C | C8H14O
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 2-bromo-4,4-dimethylcyclohexanone | BrC1C(CCC(C1)(C)C)=O | C8H13BrO
